US08044209B2
To a suspension of Mg (3.67 g, 153.01 mmol) in THF (40 mL) is added cat. Iodine, followed by a solution of 3-bromo-1,1-dimethoxy-propane (21.47 g, 117.30 mmol) in THF (40 mL). The mixture is stirred at room temperature for 2 h. Then the fresh prepared Grignard reagent is cooled down in an ice bath, and added to a solution of 2-bromo-N-methoxy-N-methyl-isonicotinamide (12.50 g, 51.00 mmol) in THF (50 mL) at 0° C. The mixture is warmed up to room temperature and stirred at this temperature for 2 h. Then the reaction mixture is cooled in an ice bath, sat. NH4Cl and water are added and the mixture is extracted with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated down. The crude product is purified by flash chromatography on silica gel (EtOAc/Hexane: 10%) to give 1-(2-Bromo-pyridin-4-yl)-4,4-dimethyoxy-butane-1-one (12.1 g, 82%) as a pale yellow oil. M/Z=288.14

reactant | Iodine | II | I2
reactant | 3-bromo-1,1-dimethoxy-propane | 117.30 mmol, 21.47 g | BrCCC(OC)OC | C5H11BrO2
reactant | 2-bromo-N-methoxy-N-methyl-isonicotinamide | 51.00 mmol, 12.50 g | BrC=1C=C(C(=O)N(C)OC)C=CN1 | C8H9BrN2O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(2-Bromo-pyridin-4-yl)-4,4-dimethyoxy-butane-1-one | 12.1 g, 82% | BrC1=NC=CC(=C1)C(CCC(OC)OC)=O | C11H14BrNO3
